US06239131B1
Preparation of (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylmethylphenyl)urea
(R)-(−)-1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylmethylphenyl)urea (4.93 g) was added to a suspension of 60% sodium hydride (440 mg) in anhydrous N,N-dimethylformamide (50 ml) under ice-cooling, the mixture was stirred for one hour. Bromomethyl tert-butylketone (1.97 g) was added thereto, the resultant mixture was stirred at room temperature for one hour, the reaction mixture was poured into ice-water, extracted with ethyl acetate, and the organic layer was washed with saturated brine. After dried over anhydrous sodium sulfate, the mixture was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:3), to thereby obtain 5.07 g of the title compound (Yield: 86%).

reactant | (R)-(−)-1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylmethylphenyl)urea | 4.93 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)CC(=O)OC(C)(C)C | C28H36N4O4
reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | Bromomethyl tert-butylketone | 1.97 g | BrCC(=O)C(C)(C)C | C6H11BrO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylmethylphenyl)urea | 5.07 g, Yield: 86% | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)CC(=O)OC(C)(C)C)=O | C34H46N4O5
